US08389550B2
b) 6-[(E)-2-(5-Methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester
To a solution of methyl 6-methylnicotinate (800 mg, 5.29 mmol) in acetic anhydride (2.5 mL) and acetic acid (0.5 mL) was added 5-methyl-3-phenyl-4-isoxazolecarbaldehyde (1.0 g, 5.34 mmol) and the reaction mixture warmed to 120° C. After 8 days at this temperature, the reaction mixture was cooled to room temperature then diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with saturated aqueous sodium bicarbonate solution, then dried, filtered and concentrated. Purification by chromatography (silica, heptane:ethyl acetate=100:0 to 1:1) to give the title compound (920 mg, 54%) as an off white solid. MS: m/e=321.0 [M+H]+.

reactant | methyl 6-methylnicotinate | 5.29 mmol, 800 mg | CC1=NC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 5-methyl-3-phenyl-4-isoxazolecarbaldehyde | 5.34 mmol, 1.0 g | CC1=C(C(=NO1)C1=CC=CC=C1)C=O | C11H9NO2
solvent | acetic anhydride | 2.5 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-[(E)-2-(5-Methyl-3-phenyl-isoxazol-4-yl)-vinyl]-nicotinic acid methyl ester | 920 mg, 54% | COC(C1=CN=C(C=C1)\C=C\C=1C(=NOC1C)C1=CC=CC=C1)=O | C19H16N2O3
